US08669271B2
4-[5-(3,5-Dimethyl-isoxazol-4-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
The title compound is prepared from 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester and 3,5-dimethyl-isoxazol-4-boronic acid following a procedure analogous to that described in Example 28. LC (method 7): tR=1.33 min; Mass spectrum (ESI+): m/z=400 [M+H]+.

reactant | 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)Cl)O1 | C17H23ClN2O3
reactant | 3,5-dimethyl-isoxazol-4-boronic acid | CC1=NOC(=C1B(O)O)C | C5H8BNO3
product | 4-[5-(3,5-Dimethyl-isoxazol-4-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)C=2C(=NOC2C)C)O1 | C22H29N3O4
